US07608631B2
400 mg of 4-(5-isopropylsulfanyl-tetrazol-1-yl)-phenol, 471 mg of bromopropanol, 473 mg of potassium carbonate and 10 mg of potassium iodide are stirred for 15 hours at reflux in 10 ml of acetone. The reaction mixture is filtered and concentrated. The residue is taken up in ethyl acetate, washed with water and concentrated. Purification over silica gel yields 3-[4-(5-isopropylsulfanyl-tetrazol-1-yl)-phenoxy]-propan-1-ol. 1H-NMR (CDCl3) 300 MHz: 1.50 (d, 6H), 2.09 (m, 2H), 3.90 (t, 2H), 4.12 (m, 1H), 4.19 (t, 2H), 7.03 (d, 2H), 7.43 (d, 2H)

reactant | 4-(5-isopropylsulfanyl-tetrazol-1-yl)-phenol | 400 mg | C(C)(C)SC1=NN=NN1C1=CC=C(C=C1)O | C10H12N4OS
reactant | bromopropanol | 471 mg | BrC(CC)O | C3H7BrO
reactant | potassium carbonate | 473 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 10 mg | [I-].[K+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 3-[4-(5-isopropylsulfanyl-tetrazol-1-yl)-phenoxy]-propan-1-ol | C(C)(C)SC1=NN=NN1C1=CC=C(OCCCO)C=C1 | C13H18N4O2S
